US05075293
Preparation of Methyl 3-(((Ethoxy(propylthio)phosphinyl)amino)carbonyl)-4-thiazolidinecarboxylat
To a solution of 2.2 g of methyl thiazolidine-4-carboxylate in 50 ml of ether was added dropwise with stirring at ambient temperature 3.14 g of O-ethyl S-propyl phosphoroisocyanatidothioate. The mixture was allowed to react overnight at ambient temperature and was then concentrated by evaporation under reduced pressure to obtain 5.2 (97 percent of theory) of the title compound as a colorless oil having a refractive index at 25° C. of 1.5312.

reactant | methyl thiazolidine-4-carboxylate | 2.2 g | S1CNC(C1)C(=O)OC | C5H9NO2S
reactant | O-ethyl S-propyl phosphoroisocyanatidothioate | 3.14 g | P(OCC)(SCCC)(N=C=O)=O | C6H12NO3PS
solvent | ether | 50 ml | CCOCC | C4H10O
product | Methyl 3-(((Ethoxy(propylthio)phosphinyl)amino)carbonyl)-4-thiazolidinecarboxylat | C(C)OP(=O)(SCCC)NC(=O)N1CSCC1C(=O)OC | C11H21N2O5PS2
